US08278302B2
2-Chloro-6,N,N-trimethyl-isonicotinamide
To a solution of 2-Chloro-6-methyl-isonicotinic acid (1 g) in DMF (200 ml) at 25° C. was added DIPEA (2.9 mL) and TBTU (1.8 ml). After 5 min, dimethylamine (0.75 g) was added dropwise. This was stirred overnight. The reaction was added to water and extracted with EtOAc. The organic layer was separated, dried and concentrated in vacuum. Flash:chromatography (9:1 to 2:8 gradient cyclohexane:EtOAc) afforded the title compound (320 mg). Rf=0.56 (1:1 cyclohexane:EtOAc)

reactant | 2-Chloro-6-methyl-isonicotinic acid | 1 g | ClC=1C=C(C(=O)O)C=C(N1)C | C7H6ClNO2
reactant | DIPEA | 2.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1.8 ml | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | dimethylamine | 0.75 g | CNC | C2H7N
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Chloro-6,N,N-trimethyl-isonicotinamide | 320 mg | ClC=1C=C(C(=O)N(C)C)C=C(N1)C | C9H11ClN2O
